US04070366
2,4-Dimethyl-3-isobutyl-5-carbethoxy-pyrrole
Acetic anhydride (20 ml) was slowly added to 5 ml of concentrated hydrochloric acid with stirring and cooling and 668 mg of 2,4-dimethyl-5-carbethoxy-pyrrole were dissolved in the resulting solution. Amalgamated zinc (10 gm, 20 mesh) and 0.75 ml of iso-butyraldehyde were then added at 20°, and the mixture was stirred for 15 minutes at 20°-25° C. The zinc was separated, washed with acetic acid, and the liquids were poured into water to precipitate the crude product. It was dried and extracted into pentane (thimble), the pentane was evaporated, and the residue was recrystallized from aqueous ethanol (13 ml of 55%) as colourless needles (681 mg), m.p. 115°-117° C (lit6 116°-117° C.) after changing to fine needles at about 112° C. and to plates at about 115° C. A further 51 mg were obtained from the mother liquors (total 732 mg, 82%). The nmr spectrum and the X-ray powder photograph were identical with those of authentic material, and the mixed m.p. was 115°-117° C.

reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | 2,4-dimethyl-5-carbethoxy-pyrrole | 668 mg | CC=1NC(=C(C1)C)C(=O)OCC | C9H13NO2
reactant | iso-butyraldehyde | 0.75 ml | C(C(C)C)=O | C4H8O
catalyst | zinc | 10 gm | [Zn] | Zn
solvent | Acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2,4-Dimethyl-3-isobutyl-5-carbethoxy-pyrrole | CC=1NC(=C(C1CC(C)C)C)C(=O)OCC | C13H21NO2
